US07501425B1
5-(Aminomethyl)-4-(cyclopentylamino)-2-(methylthio)pyrimidine
To a stirred 0° C. suspension of 1.7 g (44.8 mmol) of LAH in 70 mL of tetrahydrofuran is added dropwise a solution of 5.0 g (21.3 mmol) of 4-(cyclopentylamino)-2-(methylthio)-5-pyrimidinecarbonitrile in 250 mL of tetrahydrofuran. The reaction is allowed to warm slowly to room temperature overnight. The mixture is recooled to 0° C., and treated with a saturated solution of ammonium sulfate until there is no more effervescence. After stirring for another 15 minutes, the gray solids are filtered and washed four times with hot ethyl acetate. The combined organic washes are concentrated, and the residue is chromatographed on silica gel eluting with 1:1:8 methanol/hexane/chloroform to obtain 4.0 g (79%) of the title compound: mp 58-60° C.

reactant | LAH | 44.8 mmol, 1.7 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(cyclopentylamino)-2-(methylthio)-5-pyrimidinecarbonitrile | 21.3 mmol, 5.0 g | C1(CCCC1)NC1=NC(=NC=C1C#N)SC | C11H14N4S
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 5-(Aminomethyl)-4-(cyclopentylamino)-2-(methylthio)pyrimidine | 4.0 g, 79% | NCC=1C(=NC(=NC1)SC)NC1CCCC1 | C11H18N4S
